US06833380B2
Preparation of 5-methoxy-2-methylphenol (Compound 4A)
A mixture of 2-hydroxy-4-methoxy-benzaldehyde (30.4 g, 0.20 mol), palladium/carbon (10%, 50% water, 30 g), concentrated HCl (15 ml) in 1500 ml of ethyl acetate was hydrogenated at 50 psi, at room temperature overnight, then filtered through Celite®. The filtrate was washed with water, brine, dried over sodium sulfate, concentrated, and purified using normal phase chromatography. 400 MHz 1H NMR (CDCl3) δ 7.01 (d, 1H), 6.44-6.38 (m, 2H), 4.65 (s, 1H), 3.79 (s, 3H), 2.18 (s, 3H).

reactant | 2-hydroxy-4-methoxy-benzaldehyde | 0.20 mol, 30.4 g | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
reactant | HCl | 15 ml | Cl | ClH
solvent | ethyl acetate | 1500 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium/carbon | 30 g | [Pd] | Pd
product | 5-methoxy-2-methylphenol | COC=1C=CC(=C(C1)O)C | C8H10O2
